* C:\Users\Facu\Documents\DCE\simulaciones\500ma\modelo_1_1\modelo_1_1.asc
Q1 N003 N004 0 0 2N2222
Q2 N004 N004 0 0 2N2222
Q3 Tpaso Verr N003 0 2N2222
Q4 VCC Vref N003 0 2N2222
Q7 Tpaso N001 VCC 0 BC557B
Q8 N001 N001 VCC 0 BC557B
R1 VCC N004 1325
R2 N001 0 2650
Q9 NodoS1 N002 VCC 0 2SA2210
V1 Vref 0 1.2
V2 VCC 0 6.35
R4 vout Verr 5k6
R3 Verr N005 1k8
R5 N005 0 1k5
R8 N006 0 10k
M2 N005 N006 0 0 BS170
R7 Vcc N006 1K
Q10 P001 N026 0 0 2N2222
R30 N014 N026 100
XU1 N016 N015 VCC 0 N014 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R10 N015 N014 5k6
C1 N015 N014 20n
R9 N016 0 5k6
R11 N024 N015 100
R12 N017 N016 100
XU2 N018 N008 VCC 0 N017 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R13 N008 N017 10k
R14 N008 NC_01 1k
R15 0 N018 10k
R16 NC_02 N018 1k
XU3 N032 N025 VCC 0 N024 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R17 N025 N024 100k
R18 0 N025 100k
R19 N020 N032 100k
XU4 N028 N020 VCC NC_03 N020 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R20 N028 0 100k
R21 NC_04 N028 500k
R22 N031 N032 100k
XU5 N034 N031 VCC 0 N031 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R23 N034 0 470k
R24 NC_05 N034 544k
Rs NodoS1 vout 0.1
Rl vout 0 {Rl}
R6 NC_06 P001 10
Q13 N002 Tpaso NodoS1 0 2N2222
Q5 P002 N023 0 0 2N2222
R25 N009 N023 100
XU6 N011 N010 VCC 0 N009 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R26 N010 N009 5k6
C2 N010 N009 20n
R27 N011 0 5k6
R28 N021 N010 100
R29 N012 N011 100
XU7 N013 N007 VCC 0 N012 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R31 N007 N012 5k1
R32 N007 vout 1k
R33 0 N013 5k1
R34 NodoS1 N013 1k
XU8 N030 N022 VCC 0 N021 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R35 N022 N021 100k
R36 0 N022 100k
R37 N019 N030 100k
XU9 N027 N019 VCC NC_07 N019 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R38 N027 0 100k
R39 Vref N027 510k
R40 N029 N030 100k
XU10 N033 N029 VCC 0 N029 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R41 N033 0 470k
R42 Verr N033 560k
R43 Tpaso P002 10
.model NPN NPN
.model PNP PNP
.lib C:\Users\Facu\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Facu\AppData\Local\LTspice\lib\cmp\standard.mos
.op
;tran 0.1
;dc V2 6.15 6.55 0.1
.lib 2SA2210-SPICE-D.LIB
.step param Rl 0.00001 10 0.1
.model BS170 VDMOS VTO=1.824 RG=270 RS=1.572 RD=1.436 RB=.768 KP=.1233 Cgdmax=20p Cgdmin=3p CGS=28p Cjo=35p Rds=1.2E8 IS=5p Bv=60 Ibv=10u Tt=161.6n
* LDOA
* LDOB
.lib UniversalOpAmp1.lib
.backanno
.end
