* C:\Users\aldum\OneDrive\Escritorio\FIUBA\Diseño de Circuitos Electrónicos\Proyecto\DCE\simulaciones\500ma\modelo_1_1\modelo_1_1.asc
Q1 N003 N006 0 0 2N2222
Q2 N006 N006 0 0 2N2222
Q3 Tpaso Verr N003 0 2N2222
Q4 VCC Vref N003 0 2N2222
Q7 Tpaso N001 VCC 0 BC557B
Q8 N001 N001 VCC 0 BC557B
R1 VCC N006 1325
R2 N001 0 2650
Q9 NodoS1 N002 VCC 0 2SA2210
V1 Vref 0 1.2
V2 VCC 0 6.35
R4 vout Verr 5k6
R3 Verr N007 1k8
R5 N007 0 1k5
R8 N008 0 10k
M2 N007 N008 0 0 BS170
R7 P001 N008 1K
Q10 P002 N028 0 0 2N2222
R30 N016 N028 100
XU1 N018 N017 VCC 0 N016 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R10 N017 N016 5k6
C1 N017 N016 20n
R9 N018 0 5k6
R11 N026 N017 100
R12 N019 N018 100
XU2 N020 N010 VCC 0 N019 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R13 N010 N019 10k
R14 N010 NC_01 1k
R15 0 N020 10k
R16 NC_02 N020 1k
XU3 N034 N027 VCC 0 N026 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R17 N027 N026 100k
R18 0 N027 100k
R19 N022 N034 100k
XU4 N030 N022 VCC NC_03 N022 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R20 N030 0 100k
R21 NC_04 N030 510k
R22 N033 N034 100k
XU5 N036 N033 VCC 0 N033 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R23 N036 0 470k
R24 NC_05 N036 560k
Rs NodoS1 vout 0.1
Rl vout 0 100
R6 NC_06 P002 10
Q13 N002 Tpaso NodoS1 0 2N2222
Q5 P003 N025 0 0 2N2222
R25 N011 N025 100
XU6 N013 N012 VCC 0 N011 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R26 N012 N011 5k6
C2 N012 N011 20n
R27 N013 0 5k6
R28 N023 N012 100
R29 N014 N013 100
XU7 N015 N009 VCC 0 N014 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R31 N009 N014 5k1
R32 N009 vout 1k
R33 0 N015 5k1
R34 NodoS1 N015 1k
XU8 N032 N024 VCC 0 N023 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R35 N024 N023 100k
R36 0 N024 100k
R37 N021 N032 100k
XU9 N029 N021 VCC NC_07 N021 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R38 N029 0 100k
R39 Vref N029 510k
R40 N031 N032 100k
XU10 N035 N031 VCC 0 N031 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R41 N035 0 470k
R42 Verr N035 560k
R43 Tpaso P003 10
L1 N004 N005 1Meg
C3 P004 N004 1Meg
V3 P004 0 AC 1
C4 vout 0 1µ
C5 0 Tpaso 100n
V4 P001 0 PULSE(0 6 0 1n 1n 1m 2m 1k)
.model NPN NPN
.model PNP PNP
.lib C:\Users\aldum\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\aldum\AppData\Local\LTspice\lib\cmp\standard.mos
;op
.tran 20m
;dc V2 6.15 6.55 0.1
.lib 2SA2210-SPICE-D.LIB
;step param Rl 0.00001 10 0.1
.model BS170 VDMOS VTO=1.824 RG=270 RS=1.572 RD=1.436 RB=.768 KP=.1233 Cgdmax=20p Cgdmin=3p CGS=28p Cjo=35p Rds=1.2E8 IS=5p Bv=60 Ibv=10u Tt=161.6n
* LDOA
* LDOB
;ac dec 1000 10 100meg
.lib UniversalOpAmp1.lib
.backanno
.end
