* C:\Users\aldum\OneDrive\Escritorio\FIUBA\Diseño de Circuitos Electrónicos\Proyecto\DCE\simulaciones\500ma\modelo_1_1\modelo_1_1.asc
Q1 N007 N008 0 0 2N2222
Q2 N008 N008 0 0 2N2222
Q3 Tpaso Verr N007 0 2N2222
Q4 VCC Vref N007 0 2N2222
Q7 Tpaso N001 VCC 0 BC557B
Q8 N001 N001 VCC 0 BC557B
R1 VCC N008 1325
R2 N001 0 2650
Q9 NodoS1 N002 VCC 0 2SA2210
V1 Vref 0 1.2
V2 VCC 0 6.35
R4 vout Verr 5k6
R3 Verr N009 1k8
R5 N009 0 1k5
R8 N010 0 10k
M2 N009 N010 0 0 BS170
R7 P001 N010 1K
Q10 P002 N030 0 0 2N2222
R30 N018 N030 100
XU1 N020 N019 VCC 0 N018 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R10 N019 N018 5k6
C1 N019 N018 22n
R9 N020 0 5k6
R11 N028 N019 100
R12 N021 N020 100
XU2 N022 N012 VCC 0 N021 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R13 N012 N021 10k
R14 N012 NC_01 1k
R15 0 N022 10k
R16 NC_02 N022 1k
XU3 N038 N029 VCC 0 N028 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R17 N029 N028 100k
R18 0 N029 100k
R19 N024 N038 100k
XU4 N033 N024 VCC NC_03 N024 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R20 N033 0 100k
R21 NC_04 N033 510k
R22 N037 N038 100k
XU5 N040 N037 VCC 0 N037 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R23 N040 0 470k
R24 NC_05 N040 560k
Rs NodoS1 vout 0.1
Rl vout 0 1
R6 NC_06 P002 10
Q13 N002 Tpaso NodoS1 0 2N2222
Q5 P003 N027 0 0 2N2222
R25 N013 N027 100
XU6 N015 N014 VCC 0 N013 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R26 N014 N013 5k6
C2 N014 N013 22n
R27 N015 0 5k6
R28 N025 N014 100
R29 N016 N015 100
XU7 N017 N011 VCC 0 N016 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R31 N011 N016 5k1
R32 N011 vout 1k
R33 0 N017 5k1
R34 NodoS1 N017 1k
XU8 N036 N026 VCC 0 N025 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R35 N026 N025 100k
R36 0 N026 100k
R37 N023 N036 100k
XU9 N031 N023 VCC NC_07 N023 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R38 N031 0 100k
R39 Vref N031 510k
R40 N035 N036 100k
XU10 N039 N035 VCC 0 N035 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R41 N039 0 470k
R42 Verr N039 560k
R43 Tpaso P003 10
L1 N032 N034 1Meg
C3 P004 N032 1Meg
V3 P004 0 AC 1
C4 vout 0 1µ
C5 0 Tpaso 100n
V4 P001 0 PULSE(0 6 0 1n 1n 1m 2m 1k)
Ry N005 0 3.3k
Rh N005 N004 100k
Rx Vref N005 1k
D1 P005 0 D
V5 N003 0 PULSE(0 5 0 500u 500u 0 1000u 100k)
XU11 N003 N005 0 Vcc N004 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R44 N006 P005 1k
.model D D
.lib C:\Users\aldum\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\aldum\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\aldum\AppData\Local\LTspice\lib\cmp\standard.mos
;op
.tran 20m
;dc V2 6.15 6.55 0.1
.lib 2SA2210-SPICE-D.LIB
;step param Rl 0.00001 10 0.1
.model BS170 VDMOS VTO=1.824 RG=270 RS=1.572 RD=1.436 RB=.768 KP=.1233 Cgdmax=20p Cgdmin=3p CGS=28p Cjo=35p Rds=1.2E8 IS=5p Bv=60 Ibv=10u Tt=161.6n
* LDOA
* LDOB
;ac dec 1000 10 100meg
;inc opamp.sub
.lib UniversalOpAmp1.lib
.backanno
.end
