* C:\Users\aldum\OneDrive\Escritorio\FIUBA\Diseño de Circuitos Electrónicos\Proyecto\DCE\simulaciones\500ma\modelo_1_1\modelo_1_1.asc
Q1 N008 N009 0 0 2N2222
Q2 N009 N009 0 0 2N2222
Q3 Tpaso Verr N008 0 2N2222
Q4 VCC Vref N008 0 2N2222
Q7 Tpaso N004 VCC 0 BC557B
Q8 N004 N004 VCC 0 BC557B
R1 VCC N009 1325
R2 N004 0 2650
Q9 NodoS1 N005 VCC 0 2SA2210
V1 Vref 0 1.2
V2 VCC 0 6.35
R4 vout Verr 5k6
R3 Verr N010 1k8
R5 N010 0 1k5
R8 N011 0 10k
M2 N010 N011 0 0 BS170
R7 VCC N011 1K
Q10 P001 N037 0 0 2N2222
R30 N025 N037 100
XU1 N027 N026 VCC 0 N025 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R10 N026 N025 5k6
C1 N026 N025 22n
R9 N027 0 5k6
R11 N035 N026 100
R12 N028 N027 100
XU2 N029 N019 VCC 0 N028 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R13 N019 N028 10k
R14 N019 NC_01 1k
R15 0 N029 10k
R16 NC_02 N029 1k
XU3 N043 N036 VCC 0 N035 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R17 N036 N035 100k
R18 0 N036 100k
R19 N031 N043 100k
XU4 N039 N031 VCC NC_03 N031 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R20 N039 0 100k
R21 NC_04 N039 510k
R22 N042 N043 100k
XU5 N045 N042 VCC 0 N042 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R23 N045 0 470k
R24 NC_05 N045 560k
Rs NodoS1 vout 0.1
Rl vout 0 100
R6 NC_06 P001 10
Q13 N005 N006 NodoS1 0 2N2222
Q5 P002 N034 0 0 2N2222
R25 N020 N034 100
XU6 N022 N021 VCC 0 N020 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R26 N021 N020 5k6
C2 N021 N020 22n
R27 N022 0 5k6
R28 N032 N021 100
R29 N023 N022 100
XU7 N024 N018 VCC 0 N023 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R31 N018 N023 5k1
R32 N018 vout 1k
R33 0 N024 5k1
R34 NodoS1 N024 1k
XU8 N041 N033 VCC 0 N032 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R35 N033 N032 100k
R36 0 N033 100k
R37 N030 N041 100k
XU9 N038 N030 VCC NC_07 N030 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R38 N038 0 100k
R39 Vref N038 510k
R40 N040 N041 100k
XU10 N044 N040 VCC 0 N040 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R41 N044 0 470k
R42 Verr N044 560k
R43 Tpaso P002 10
L1 Tpaso N006 1Meg
C3 P003 N006 1Meg
V3 P003 0 AC 1
C4 vout 0 1µ
C5 0 N006 100n
V4 NC_08 0 PULSE(0 6 0 1n 1n 1m 2m 1k)
XU11 N002 Verr Vref2 0 out level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R44 N002 Vref2 1k
R45 out N002 10k
D2 N007 0 QTLP690C
R46 out N007 470
V5 tri 0 PULSE(0.8 1.6 0 1m 1m 1u 2m 5k)
XU12 N012 tri Vref2 0 N013 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R47 N012 Vref2 3k3
R48 N013 N012 51k
D1 N017 0 QTLP690C
R49 NotQ N017 100
V6 Vref2 0 3.3
R50 N012 0 2k2
R51 N002 0 470
M3 NC_09 N001 0 0 BSC052N03LS
A1 Vout_ovlo N016 0 0 0 NotQ Q 0 SRFLOP
V8 N016 0 PULSE(0 3.3 1m 1n 1n 100u 8m 1)
Q6 N001 N003 0 0 2N2222
R53 VCC N001 1k
R52 N003 NotQ 100
R54 N015 N013 1k
C6 N015 0 200n
R55 N014 Vref2 10k
R56 0 N014 10k
XU13 N015 N014 Vref2 0 Vout_ovlo level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
.model D D
.lib C:\Users\aldum\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\aldum\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\aldum\AppData\Local\LTspice\lib\cmp\standard.mos
;op
;tran 2m
;dc V2 6.15 6.55 0.1
.lib 2SA2210-SPICE-D.LIB
;step param Rl 0.00001 10 0.1
.model BS170 VDMOS VTO=1.824 RG=270 RS=1.572 RD=1.436 RB=.768 KP=.1233 Cgdmax=20p Cgdmin=3p CGS=28p Cjo=35p Rds=1.2E8 IS=5p Bv=60 Ibv=10u Tt=161.6n
* LDOA
* LDOB
.ac dec 1000 10 100meg
;tran 0 10m 0
* Pulsador Normal Cerrado
.lib UniversalOpAmp1.lib
.lib UniversalOpAmp2.lib
.backanno
.end
